US06339091B1
15.a. 11-[(dimethylamino)methyl]-5-ethyl-5,10-dihydroxy-1,4,5,13-tetrahydro-3H,15H-oxepino[3′,4′:6,7]indolizino[1,2-b]quinoline-3,15-dione
A suspension of 5-ethyl-5,10-dihydroxy-1,4,5,13-tetrahydro-3H,15H-oxepino[3′,4′:6,7]indolizino[1,2-b]quinoline-3,15-dione (260 mg, 0,69 mmol) in acetic acid (15 ml) is treated with aqueous formaldehyde at 37% (500 μl) and aqueous dimethylamine at 40% (500 μl) and the resultant mixture is agitated at ambient temperature for 16 hours. The reaction mixture is concentrated to dryness and the residue is purified by column chromatography (SiO2, CH2Cl2/MeOH: 100/0 to 90/10) followed by crystallization from acetonitrile, which produces 102 mg of sought compound.

reactant | 5-ethyl-5,10-dihydroxy-1,4,5,13-tetrahydro-3H,15H-oxepino[3′,4′:6,7]indolizino[1,2-b]quinoline-3,15-dione | 0,69 mmol, 260 mg | C(C)C1(CC(OCC=2C(N3CC=4C(=NC=5C=CC(=CC5C4)O)C3=CC21)=O)=O)O | C21H18N2O5
reactant | formaldehyde | C=O | CH2O
reactant | dimethylamine | CNC | C2H7N
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 11-[(dimethylamino)methyl]-5-ethyl-5,10-dihydroxy-1,4,5,13-tetrahydro-3H,15H-oxepino[3′,4′:6,7]indolizino[1,2-b]quinoline-3,15-dione | 102 mg | CN(C)CC=1C=2C=C3C(=NC2C=CC1O)C1=CC2=C(C(N1C3)=O)COC(CC2(O)CC)=O | C24H25N3O5
